US08022206B2
1-(2,6-Dichlorophenyl)but-3-yn-1-ol
General Procedure BB: To a mixture of zinc (0.60 g, 9.2 mmol) in THF (1 mL) was added 1,2-Dibromoethane (0.03 mL, 0.3 mmol). The resulting mixture was stirred under reflux for 15 min and then cooled to rt. To the reaction mixture was added TMSCl (0.03 mL, 0.2 mmol) and THF (5 mL). A solution of propargyl bromide (0.750 mL, 8.42 mmol) and THF (3 mL) was then added dropwise to the reaction mixture over a 30 min period at −10° C. After 1 h, 2,6-Dichlorobenzaldehyde (1.46 g, 8.33 mmol) was added to the reaction mixture and allowed to warm to rt and stirred for 36 h. The reaction mixture was quenched with 1 M aqueous HCl (15 mL) and the organic layer was washed with brine (10 mL). The organic layer was dried over Na2SO4 and concentrated under reduced pressure to yield a dark yellow oil. The crude product was purified by silica gel chromatography using Hexane/EtOAc (80:20) as eluent to yield the desired product as a yellow oil. 1H NMR (CDCl3, 400 MHz): δ=2.03-2.06 (m, 1H), 2.82-2.90 (m, 1H), 3.00-3.07 (m, 1H), 3.09 (d, J=9.1 Hz, 1H), 5.67 (td, J=8.8, 6.6 Hz, 1H), 7.14-7.21 (m, 1H), 7.32 (d, 2H).

reactant | 1,2-Dibromoethane | 0.3 mmol, 0.03 mL | BrCCBr | C2H4Br2
reactant | TMSCl | 0.2 mmol, 0.03 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | propargyl bromide | 8.42 mmol, 0.750 mL | C(C#C)Br | C3H3Br
reactant | 2,6-Dichlorobenzaldehyde | 8.33 mmol, 1.46 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | zinc | 9.2 mmol, 0.60 g | [Zn] | Zn
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Dichlorophenyl)but-3-yn-1-ol | ClC1=C(C(=CC=C1)Cl)C(CC#C)O | C10H8Cl2O
